US05994378
A mixture of 5-acetyl-2-hydroxybenzaldehyde (1.68 g), 2-bromomethyl-4-tert-butylthiazole, potassium carbonate (1.24 g) and potassium iodide (0.59 g) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 5 hours. The resulting mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. A mixture of the resulting syrup and acetic anhydride in xylene was stirred under reflux for 1 day. After being cooled to room temperature, the reaction mixture was concentrated under reduced -pressure. The resulting syrup was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-(5-acetylbenzofuran-2-yl)thiazole (1.83 g).

reactant | 5-acetyl-2-hydroxybenzaldehyde | 1.68 g | C(C)(=O)C=1C=CC(=C(C=O)C1)O | C9H8O3
reactant | 2-bromomethyl-4-tert-butylthiazole | BrCC=1SC=C(N1)C(C)(C)C | C8H12BrNS
reactant | potassium carbonate | 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.59 g | [I-].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-tert-butyl-2-(5-acetylbenzofuran-2-yl)thiazole | 1.83 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(C)=O | C17H17NO2S
